US07199124B2
[5-(2-benzylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine
A mixture of [5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine (0.29 g, 1.0 mmol) and benzylamine (1.2 mL, 11 mmol) was stirred at 150° C. for 3 hrs. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:1) to give the title compound (0.16 g, yield 41%).

reactant | [5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 1.0 mmol, 0.29 g | FC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C15H12FN3S
reactant | benzylamine | 11 mmol, 1.2 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | [5-(2-benzylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 0.16 g, yield 41% | C(C1=CC=CC=C1)NC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C22H20N4S
